US07718683B2
General Procedure J Exemplified for 4-tert-Butyl-N-{4-chloro-2-[(S)-4-(1-methanesulfonyl-pyrrolidin-3-yl)-4H-[1,2,4]triazol-3-yl]-phenyl}-benzenesulfonamide
To 4-tert-butyl-N-[4-chloro-2-((S)-4-pyrrolidin-3-yl-4H-[1,2,4]triazol-3-yl)-phenyl]-benzenesulfonamide hydrochloride (0.25 g, 0.505 mmol) in THF (8 mL) was added pyridine (0.60 mL, 7.4 mmol). The resultant solution was stirred for 20 minutes at room temperature. The reaction mixture was subsequently cooled to 0° C., methanesulfonyl chloride (0.595 mL, 7.6 mmol) was added, and the mixture was stirred overnight at room temperature. The following day, the volatiles were evaporated and the resultant residue was adsorbed onto silica gel and purified by automated normal-phase chromatography (using 50→100% EtOAc in hexanes) to obtain the title compound (0.183 g) in 67.5% yield: MS (ES) M+H expected 538.0, found 538.1.

reactant | 4-tert-butyl-N-[4-chloro-2-((S)-4-pyrrolidin-3-yl-4H-[1,2,4]triazol-3-yl)-phenyl]-benzenesulfonamide hydrochloride | 0.505 mmol, 0.25 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C1=NN=CN1[C@@H]1CNCC1
reactant | pyridine | 7.4 mmol, 0.60 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 7.6 mmol, 0.595 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-tert-Butyl-N-{4-chloro-2-[(S)-4-(1-methanesulfonyl-pyrrolidin-3-yl)-4H-[1,2,4]triazol-3-yl]-phenyl}-benzenesulfonamide | 0.183 g, 67.5% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C1=NN=CN1[C@@H]1CN(CC1)S(=O)(=O)C | C23H28ClN5O4S2
